US04212830
To 0.85 gm of magnesium in a thoroughly dried flask equipped with condensor and magnetic stirrer was added 5 mls of anhydrous tetrahydrofuran and 0.5 ml of dibromo ethane. A solution of 4.5 gms of 1,1-dimethoxy-9-chlorononane in 40 mls of toluene was added dropwise. When addition was half complete, a few drops of bromoethane were added and the addition was continued. The temperature was maintained at 75°±5° for two hours. The Grignard reagent was decanted into another flask and 100 mgs of cuprous chloride (CuCl) catalyst was added, followed by dropwise addition of 3.0 gms of a mixture (approximately 60:40) of 1-chloro-2-pentene and 3-chloro-1-pentene dissolved in 15 mls of toluene. The reaction flask was cooled in a water bath at 20°±5°. Magnesium chloride began to precipitate after ten minutes. The reaction stood overnight at room temperature. 50 mls of 3 N hydrochloric acid was added and the reaction mixture was stirred and heated at reflux for 1 hour. The aqueous layer was separated and washed two times with toluene. The organic layer and the toluene washes were combined and dried over sodium sulphate. The solvents were removed on the rotary evaporator and the residue was distilled at 83° at 0.10 torr yielding 2.3 gms of crude 11-tetradecenal. GLC analysis showed that the contaminating 10-ethyl-11-dodecenal was present in only 11.5%. For physical constants see Example 5.

reactant | magnesium | 0.85 gm | [Mg] | Mg
reactant | tetrahydrofuran | 5 mls | O1CCCC1 | C4H8O
reactant | dibromo ethane | 0.5 ml | BrC(C)Br | C2H4Br2
reactant | 1,1-dimethoxy-9-chlorononane | 4.5 gms | COC(CCCCCCCCCl)OC | C11H23ClO2
solvent | toluene | 40 mls | C1(=CC=CC=C1)C | C7H8
catalyst | bromoethane | a few drops | BrCC | C2H5Br
product | 11-tetradecenal | 2.3 gms | C(CCCCCCCCCC=CCC)=O | C14H26O
